US04061854
A mixture of 11-cyano-9,10-dihydro-9,10-ethanoanthracene (4.6 g) and 2-aminoethanethiol (2.0 g) is stirred at 130° C for 4 hours. The reaction mixture is recrystallized from ethanol to give 11-(2-thiazolin-2-yl)-9,10-dihydro-9,10-ethanoanthracene (4.5 g) as crystals melting at 160° to 161° C. IR (KBr), 1619 cm-1 (S--C=N).

reactant | 11-cyano-9,10-dihydro-9,10-ethanoanthracene | 4.6 g | C(#N)C1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H13N
reactant | 2-aminoethanethiol | 2.0 g | NCCS | C2H7NS
product | 11-(2-thiazolin-2-yl)-9,10-dihydro-9,10-ethanoanthracene | 4.5 g | S1C(=NCC1)C1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C19H17NS
